* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Analog\Components\OLSim.asc
V1 Vocm_target 0 1.65
V2 CK_MASTER 0 PULSE(0 3.3 0 1n 1n 100n 200n)
V3 Vdd 0 3.3
V4 N001 0 {Vicm} AC {ac_vicm}
V5 Vip1 N001 PULSE(0 {vid/2} 2u 1n 1n 2u 100u) AC {ac_vid/2}
V6 N001 Vim1 PULSE(0 {vid/2} 2u 1n 1n 2u 100u) AC {ac_vid/2}
XX2 CK_MASTER Vdd Vim1 Vip1 Vocm_target Vom1 Vop1 ota_lp

* block symbol definitions
.subckt ota_lp CK_MASTER Vdd Vim Vip Vocm_target Vom Vop
M1 X Vip N006 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M2 Y Vim N006 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M3 N006 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail/Mtail' m=Mtail
M4 vm1 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail/Mtail' m=1
M5 Vdd d X Vdd pmos_3p3 l='Lmirr' w='W5/M1' m='M1'
M6 X c Vom Vdd pmos_3p3 l='Lcas' w='W3/M2' m='M2'
M7 Vom Vb1 N007 0 nmos_3p3 l='Lcas' w='W7/M3' m='M3'
M8 N007 vm2 0 0 nmos_3p3 l='Lmirr' w='a*W9/M3' m='M3'
M9 Vdd d Y Vdd pmos_3p3 l='Lmirr' w='W5/M1' m='M1'
M10 Y c Vop Vdd pmos_3p3 l='Lcas' w='W3/M2' m='M2'
M11 Vop Vb1 N008 0 nmos_3p3 l='Lcas' w='W7/M3' m='M3'
M12 N008 vm2 0 0 nmos_3p3 l='Lmirr' w='a*W9/M3' m='M3'
M13 N007 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9/M3' m='M3'
M14 N008 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9/M3' m='M3'
C1 Vom 0 100f
C2 Vop 0 100f
I1 N001 N004 500n
M15 N005 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail/Mtail' m=1
M16 Vdd N005 N005 Vdd pmos_3p3 l='Lcopy' w='Wcopy_p' m=1
M17 Vdd N005 Vb1 Vdd pmos_3p3 l='Lcopy' w='Wcopy_p' m=Mp
M18 c vm1 0 0 nmos_3p3 l='Ltail' w='Wtail/Mtail' m=Mn
M19 N004 N004 vm1 0 nmos_3p3 l=4.48u w=1u m=1
M20 Vdd N001 N001 Vdd pmos_3p3 l=4.48u w=1u m=1
M21 N009 Vb1 0 0 nmos_3p3 l='Lmirr' w='(1/3)*W9/M3'
M22 Vb1 Vb1 N009 0 nmos_3p3 l='Lcas' w='W7/M3'
M23 N010 vm2 0 0 nmos_3p3 l='Lmirr' w='W9/M3'
M24 vm2 Vb1 N010 0 nmos_3p3 l='Lcas' w='W7/M3'
M25 Vdd c N002 Vdd pmos_3p3 l='Lmirr' w='(1/3)*W5/M1'
M26 N002 c c Vdd pmos_3p3 l='Lcas' w='W3/M2' m=1
M27 Vdd d N003 Vdd pmos_3p3 l='Lmirr' w='W5/M1' m=1
M28 N003 c d Vdd pmos_3p3 l='Lcas' w='W3/M2' m=1
M29 d vm1 0 0 nmos_3p3 l='Ltail' w='Wtail/Mtail' m=Mn
M30 Vdd N005 vm2 Vdd pmos_3p3 l='Lcopy' w='Wcopy_p' m=Mp
XX3 CK_MASTER Vdd CK_PHI1 CK_PHI1_BAR CK_PHI2 CK_PHI2_BAR phase_gen
XX4 CK_PHI1 CK_PHI1_BAR CK_PHI2 CK_PHI2_BAR vm2 Vdd Vocm_target Vom Vop NC_01 cs_cmfb_v2
R1 Voc N011 1k
R2 N012 Voc 1k
E1 N011 0 Vop 0 1
E2 N012 0 Vom 0 1
E3 vctr 0 Voc Vocm_target 300
.param Wpair=12.63u Lpair=0.28u
.param Wtail=2.64u Ltail=4.48u Mtail=4
.param vid=0 Vicm=1.65
.inc ..\..\gf180\cmos_tt.txt
.param W5=22.99u W3=7.92u W7=1.92u W9=3.53u Lmirr=2.24u Lcas=0.84u
.param Vocm_target=1.65
.param a=0.7
.param Lcopy=4.48u Wcopy_p=34.48u
.param Mn=2 Mp=2
.param M3=2
.param M1=3 M2=2
.ends ota_lp

.subckt phase_gen CK Vdd CK1 CK1_BAR CK2 CK2_BAR
XX1 CK CK2_FB Vdd 0 N001 nor2x1
XX2 CK Vdd CK_BAR 0 invx1
XX5 CK_BAR CK1_FB Vdd 0 N006 nor2x1
XX6 CK2 Vdd N008 0 invx1
XX7 N008 Vdd N009 0 invx1
XX8 N001 Vdd CK1_BAR 0 invx1
XX9 N006 Vdd CK2_BAR 0 invx1
XX10 N009 Vdd N010 0 invx1
XX11 N010 Vdd CK2_FB 0 invx1
XX3 CK1 Vdd N003 0 invx1
XX4 N003 Vdd N004 0 invx1
XX12 N004 Vdd N005 0 invx1
XX13 N005 Vdd CK1_FB 0 invx1
XX14 Vdd 0 N001 Vdd N002 tgate params: L=0.28u Wn=1u Wp=3u M={M}
XX15 Vdd 0 N006 Vdd N007 tgate params: L=0.28u Wn=1u Wp=3u M={M}
XX16 Vdd 0 N002 Vdd CK1 tgate params: L=0.28u Wn=1u Wp=3u M={M}
XX17 Vdd 0 N007 Vdd CK2 tgate params: L=0.28u Wn=1u Wp=3u M={M}
.param M=1
.ends phase_gen

.subckt cs_cmfb_v2 CK_PHI1 CK_PHI1_BAR CK_PHI2 CK_PHI2_BAR Vbias Vdd Vocm_ref Vom Vop Vctr
XX1 CK_PHI1 CK_PHI1_BAR N009 Vdd Vop tgate params: L=0.28u Wn=1u Wp=3u M=1
XX2 CK_PHI1 CK_PHI1_BAR N011 Vdd Vctr tgate params: L=0.28u Wn=1u Wp=3u M=1
XX3 CK_PHI2 CK_PHI2_BAR Vocm_ref Vdd N009 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX4 CK_PHI2 CK_PHI2_BAR Vbias Vdd N011 tgate params: L=0.28u Wn=1u Wp=3u M=1
C1 N009 N011 {C1}
C2 Vop Vctr {C2}
XX5 CK_PHI2_BAR CK_PHI2 N019 Vdd N019 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX11 CK_PHI1_BAR CK_PHI1 N016 Vdd N016 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX7 CK_PHI2 CK_PHI2_BAR Vop Vdd N006 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX8 CK_PHI2 CK_PHI2_BAR Vctr Vdd N012 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX9 CK_PHI1 CK_PHI1_BAR Vocm_ref Vdd N006 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX10 CK_PHI1 CK_PHI1_BAR Vbias Vdd N012 tgate params: L=0.28u Wn=1u Wp=3u M=1
C3 N006 N012 {C1}
XX21 CK_PHI2_BAR CK_PHI2 N002 Vdd N002 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX22 CK_PHI1_BAR CK_PHI1 N001 Vdd N001 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
R1 N016 N015 1000G
R2 N012 Vctr 1000G
R3 Vop N005 1000G
R4 N006 Vop 1000G
R5 Vbias NC_01 1000G
R6 NC_02 Vbias 1000G
R7 NC_03 Vocm_ref 1000G
R8 Vocm_ref NC_04 1000G
XX6 CK_PHI1 CK_PHI1_BAR N010 Vdd Vom tgate params: L=0.28u Wn=1u Wp=3u M=1
XX12 CK_PHI1 CK_PHI1_BAR N014 Vdd Vctr tgate params: L=0.28u Wn=1u Wp=3u M=1
XX13 CK_PHI2 CK_PHI2_BAR Vocm_ref Vdd N010 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX14 CK_PHI2 CK_PHI2_BAR Vbias Vdd N014 tgate params: L=0.28u Wn=1u Wp=3u M=1
C4 N010 N014 {C1}
C5 Vom Vctr {C2}
XX15 CK_PHI2_BAR CK_PHI2 N020 Vdd N020 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX16 CK_PHI1_BAR CK_PHI1 N017 Vdd N017 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX17 CK_PHI2 CK_PHI2_BAR Vom Vdd N007 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX18 CK_PHI2 CK_PHI2_BAR Vctr Vdd N013 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX19 CK_PHI1 CK_PHI1_BAR Vocm_ref Vdd N007 tgate params: L=0.28u Wn=1u Wp=3u M=1
XX20 CK_PHI1 CK_PHI1_BAR Vbias Vdd N013 tgate params: L=0.28u Wn=1u Wp=3u M=1
C6 N007 N013 {C1}
XX23 CK_PHI2_BAR CK_PHI2 N003 Vdd N003 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
XX24 CK_PHI1_BAR CK_PHI1 N004 Vdd N004 tgate params: L=0.28u Wn={Wn_d} Wp={Wp_d} M=1
R9 N017 N018 1000G
R10 N013 Vctr 1000G
R11 N004 N008 1000G
R12 N007 Vom 1000G
R13 Vbias NC_05 1000G
R14 NC_06 Vbias 1000G
R15 NC_07 Vocm_ref 1000G
R16 Vocm_ref NC_08 1000G
.param C1=20f C2=20f/10
.param Wn_d=1u/2 Wp_d=3u/2
.ends cs_cmfb_v2

.subckt nor2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends nor2x1

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt tgate A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=3u M=1
.ends tgate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\..\gf180\cmos_tt.txt
.param vid=0 Vicm=1.65 ac_vid=1 ac_vicm=0
* .ac dec 1000 1 10G
.meas AC fc WHEN mag(((V(tv_num)/V(tv_den))*(V(ti_num)/V(ti_den))-1)/((V(tv_num)/V(tv_den))+(V(ti_num)/V(ti_den))+2))=1 FALL=1
.meas AC phT FIND (((V(tv_num)/V(tv_den))*(V(ti_num)/V(ti_den))-1)/((V(tv_num)/V(tv_den))+(V(ti_num)/V(ti_den))+2)) WHEN mag(((V(tv_num)/V(tv_den))*(V(ti_num)/V(ti_den))-1)/((V(tv_num)/V(tv_den))+(V(ti_num)/V(ti_den))+2))=1 FALL=1
.meas AC pm PARAM 180+phT
* .tran 8u
* .dc param vid -40m 40m 100u
.measure tran iavg AVG i(V3) from=2.5u to=2.7u
.measure tran iclk_phi2_avg AVG i(V2) from=2.5u to=2.7u
.measure tran pclk2 PARAM='-iclk_phi2_avg*3.3'
.measure tran pavg PARAM='-iavg*3.3'
.measure tran ptot PARAM='pavg+pclk2'
.meas dc_gain max mag(V(vop1)-V(vom1))
.meas ac bw find mag(V(vop1)-V(vom1)) when mag(V(vop1)-V(vom1))=dc_gain/sqrt(2)
.meas GBW dc_gain * bw
.op
* .noise V(vop1,vom1) V3 dec 1000 1k 100Meg
.meas noise VNOISE_RMS integ V(onoise)
.meas DC vo_swing FIND V(vop1,vom1) WHEN deriv(V(vop1,vom1))=500
.meas ac av_dc_dm AVG V(vop1,vom1) from=1 to=10
.backanno
.end
